US07342127B2
Triethylsilane (115 mg, 0.99 mmol) was added to 5-(2,6-dibromo-4-nitro-3-trifluoromethylphenoxy)-2-hydroxy-3-isopropylbenzaldehyde of Part 11D (130 mg, 0.25 mmol) and stirred at room temperature for two minutes. TFA (6 mL) was added and the reaction mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated and the residue was purified on column (silica gel, gradient elution with n-heptane/EtOAc) to give 133 mg (99%) of 4-(2,6-dibromo-4-nitro-3-trifluoromethylphenoxy)-2-methyl-6-isopropylphenol.

reactant | Triethylsilane | 0.99 mmol, 115 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | 5-(2,6-dibromo-4-nitro-3-trifluoromethylphenoxy)-2-hydroxy-3-isopropylbenzaldehyde | BrC1=C(OC=2C=C(C(=C(C=O)C2)O)C(C)C)C(=CC(=C1C(F)(F)F)[N+](=O)[O-])Br | C17H12Br2F3NO5
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2,6-dibromo-4-nitro-3-trifluoromethylphenoxy)-2-methyl-6-isopropylphenol | 133 mg, 99% | BrC1=C(OC2=CC(=C(C(=C2)C(C)C)O)C)C(=CC(=C1C(F)(F)F)[N+](=O)[O-])Br | C17H14Br2F3NO4
